US07967973B2
A mixture of plant oils (linseed, soybean, and rapeseed oils) was pretreated by hydrolysis and distillation to obtain fatty acid fractions according to carbon numbers. The C18 acid fraction thus obtained was used as the feed, the fraction being diluted with a paraffinic diesel fuel of biological origin. C18 acid content of the feedstock thus obtained was 31%, by weight. Double bonds of the feedstock were selectively prehydrogenated, and the stearic acid was continuously ketonised at atmospheric pressure, in a tubular reactor using a MnO2 catalyst. Temperature of the reactor was 370° C., the WHSV of total feed being 3 l/h. 22% by weight of 18-pentatriacontanone, or stearone, in a diluent was obtained as the ketonisation product.

reactant | stearic acid | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
catalyst | MnO2 | O=[Mn]=O
product | stearone | CCCCCCCCCCCCCCCCCC(=O)CCCCCCCCCCCCCCCCC | C35H70O
